US07691898B2
(3) [3-(4-Ethylbenzyl)-4-(2-hydroxyethoxy)benzyl]phosphonic acid (compound 6)
To a solution of [3-(4-ethylbenzyl)-4-(2-hydroxyethoxy)benzyl]phosphonic acid diethylester (0.70 g) in dichloromethane (11.0 mL) was added bromotrimethylsilane (1.1 mL) at 0° C., and the reaction mixture was stirred for 14 hr at room temperature. Methanol (6.0 mL) was added to the reaction mixture, and the mixture was stirred for 10 min at room temperature. Evaporation of the solvent gave the title compound (0.51 g) as a light gray oil.

reactant | [3-(4-ethylbenzyl)-4-(2-hydroxyethoxy)benzyl]phosphonic acid diethylester | 0.70 g | C(C)OP(OCC)(=O)CC1=CC(=C(C=C1)OCCO)CC1=CC=C(C=C1)CC | C22H31O5P
reactant | bromotrimethylsilane | 1.1 mL | Br[Si](C)(C)C | C3H9BrSi
reactant | Methanol | 6.0 mL | CO | CH4O
solvent | dichloromethane | 11.0 mL | ClCCl | CH2Cl2
product | [3-(4-Ethylbenzyl)-4-(2-hydroxyethoxy)benzyl]phosphonic acid | 0.51 g | C(C)C1=CC=C(CC=2C=C(CP(O)(O)=O)C=CC2OCCO)C=C1 | C18H23O5P
